US08202865B2
Step 3: 2-chloro-4-cyano-5-methoxybenzoic acid
A mixture of methyl 2-chloro-4-cyano-5-fluorobenzoate (840 mg; 3.93 mmol; 1 eq.) and K2CO3 (2 717.55 mg; 19.66 mmol; 5 eq.) in MeOH (16.80 mL) was stirred at RT for 24 hours. The reaction mixture was concentrated and the residue was taken up in water. The aqueous layer was washed with EtOAc then the aqueous phase was acidified with HCl cc and extracted with EtOAc. The combined organic phases were washed with water, brine, dried over MgSO4 and concentrated affording the title compound as a yellow solid used without further (0.63 g, 75%). 1H NMR (DMSO-d6, 300 MHz) δ 14.05 (br s, 1H), 8.04 (s, 1H), 7.51 (s, 1H), 3.96 (s, 3H). HPLC (Method A) Rt 3.11 min (Purity 88.5%).

reactant | methyl 2-chloro-4-cyano-5-fluorobenzoate | 3.93 mmol, 840 mg, 1 eq. | ClC1=C(C(=O)OC)C=C(C(=C1)C#N)F | C9H5ClFNO2
reactant | K2CO3 | 19.66 mmol, 717.55 mg, 5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 16.80 mL | CO | CH4O
product | 2-chloro-4-cyano-5-methoxybenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)C#N)OC | C9H6ClNO3
